US07399759B2
2-(6-Benzylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one
2-Benzylthio-6-cyanopyridine (1.63 g, 7.22 mmol) and methyl thiosalicylate (1.21 g, 7.22 mmol) were dissolved in toluene (30 ml), and triethylamine (1.52 ml, 10.8 mmol) was added thereto. The reaction mixture was refluxed for 48 hrs. The solvent was evaporated and the residue was recrystallized from ethanol to give the titled compound (1.03 g, 44%) as white crystals.

reactant | 2-Benzylthio-6-cyanopyridine | 7.22 mmol, 1.63 g | C(C1=CC=CC=C1)SC1=NC(=CC=C1)C#N | C13H10N2S
reactant | methyl thiosalicylate | 7.22 mmol, 1.21 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 10.8 mmol, 1.52 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Benzylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.03 g, 44% | C(C1=CC=CC=C1)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C20H14N2OS2
